US08110575B2
5-(6-(2-propylindoline-1-carbonyl)pyrimidin-4-ylamino)-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one
12.5 μL (50 μmol) 4M aqueous hydrochloric acid were added to 103 mg (0.40 mmol) (6-chloro-pyrimidin-4-yl)-(2-propyl-2,3-dihydro-indol-1-yl)-methanone and 108 mg (0.36 mmol) 5-amino-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one in 2 mL 2-pentanol. The reaction mixture was refluxed for 2 h. The reaction mixture was evaporated down using the rotary evaporator and the residue was taken up in DMF. The purification was carried out by preparative HPLC. The product fractions were combined and lyophilised.

reactant | hydrochloric acid | 50 μmol, 4M, 12.5 μL | Cl | ClH
reactant | (6-chloro-pyrimidin-4-yl)-(2-propyl-2,3-dihydro-indol-1-yl)-methanone | 0.40 mmol, 103 mg | ClC1=CC(=NC=N1)C(=O)N1C(CC2=CC=CC=C12)CCC | C16H16ClN3O
reactant | 5-amino-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | 0.36 mmol, 108 mg | NC=1C=C2CC3(C(NC4=NC=CC=C43)=O)CC2=CC1 | C15H13N3O
solvent | 2-pentanol | 2 mL | CC(CCC)O | C5H12O
product | 5-(6-(2-propylindoline-1-carbonyl)pyrimidin-4-ylamino)-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | C(CC)C1N(C2=CC=CC=C2C1)C(=O)C1=CC(=NC=N1)NC=1C=C2CC3(C(NC4=NC=CC=C43)=O)CC2=CC1 | C31H28N6O2
